US05723497
Preparation of 1-(2-hydroxyethylamino)-3-[10-(2-ethylhexyloxy)decyloxy]-2-propanol (Ia-14):
A 200-ml two-necked flask equipped with a stirrer, reflux tube and dropping funnel was charged with 32.7 g (0.54 mol) of ethanolamine and 10.1 g of ethanol. While heating and stirring the mixture at 80° C., 1.76 g (5.14 mmol) of 10-(2-ethylhexyloxy)decyl glycidyl ether were added dropwise over 2 hours. After the resultant mixture was heated and stirred further for 18 hours, it was concentrated under reduced pressure, and the resultant residue was purified by column chromatography on silica gel, thereby obtaining 1.42 g (yield: 68%) of the title compound (Ia-14).

reactant | ethanolamine | 0.54 mol, 32.7 g | C(O)CN | C2H7NO
reactant | 10-(2-ethylhexyloxy)decyl glycidyl ether | 5.14 mmol, 1.76 g | C(C1CO1)OCCCCCCCCCCOCC(CCCC)CC | C21H42O3
solvent | ethanol | 10.1 g | C(C)O | C2H6O
product | 1-(2-hydroxyethylamino)-3-[10-(2-ethylhexyloxy)decyloxy]-2-propanol | 1.42 g, yield: 68% | OCCNCC(COCCCCCCCCCCOCC(CCCC)CC)O | C23H49NO4
